US08754114B2
N-[3-(7-{1-[2-Cyano-1-(2-furyl)ethyl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 89, Step 2 starting from N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and 3-(2-furyl)acrylonitrile. LCMS (M+H)+: m/z=521.0.

reactant | N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H14F3N7O
reactant | 3-(2-furyl)acrylonitrile | O1C(=CC=C1)C=CC#N | C7H5NO
product | N-[3-(7-{1-[2-Cyano-1-(2-furyl)ethyl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC(C=1OC=CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C25H19F3N8O2
